US03953604
A suspension of 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3 -(p-fluorophenoxy) propane (25.6 g) in diethyl oxalate (30 ml) was added to a suspension of sodium ethoxide, prepared from sodium (6.0 g) and ethanol (60 ml) in dry ether (400 ml). The mixture was then heated under reflux for 2 hours, cooled, and poured onto ice (200 g). After acidification with a solution of acetic acid (24 ml) in water (160 ml), the ethereal layer was separated, and the aqueous layer was extracted with ether (3 × 50 ml). The organic extracts were combined and concentrated under reduced pressure to give yellow oil. This was dissolved in ethanol (100 ml) containing hydrochloric acid (10 drops) and the solution heated under reflux for 1 hour. After removal of the solvent under reduced pressure the yellow residue was crystallized from ethanol to give 1-(2-carbethoxy-phenoxy)-2-hydroxy-3-(p-fluorophenoxy) propane (22.0 g) as cream crystals, m.p. 112°-114° C.

reactant | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3 -(p-fluorophenoxy) propane | 25.6 g | C(C)(=O)C1=C(OCC(COC2=CC=C(C=C2)F)O)C=CC=C1O | C17H17FO5
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 6.0 g | [Na] | Na
reactant | diethyl oxalate | 30 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-(2-carbethoxy-phenoxy)-2-hydroxy-3-(p-fluorophenoxy) propane | 22.0 g | C(=O)(OCC)C1=C(OCC(COC2=CC=C(C=C2)F)O)C=CC=C1 | C18H19FO5
